US04824943
A solution of n-butyllithium in n-hexane (1.6M solution, 68.8 ml) was added to a solution of dimethyl methylphosphonate (13.65 g) in tetrahydrofuran (200 ml) in a stream of argon at -70° to -78° C., and then stirred for 30 min. To the solution was added a solution of 2,3,4,6-tetra-O-benzyl-D-glucono-1,5-lactone (29.6 g) in tetrahydrofuran (150 ml) at -70° to -78° C. The mixture was stirred for 1 hour at the same temperature. The cooling bath was removed and the mixture was allowed to warm to 0° C. with stirring. Ice-cold 10% ammonium chloride solution (400 ml) was added to the reaction mixture and the resulting oily substances were extracted with ethyl acetate (1.2 l). The ethyl acetate solution was washed with 2N hydrochloric acid and saturated aqueous sodium hydrogen-carbonate, dried with anhydrous sodium sulfate and then evaporated in vacuo. Ethyl ether-petroleum ether (1:3; 400 ml) was added to the residue and the mixture was refrigerated to give 3,4,5,7-tetra-O-benzyl-1-deoxy-1-(dimethoxyphosphoryl)-D-gluco-2-heptulopyranose (33.1 g) as white crystals; m.p. 112°-113° C.;

reactant | n-butyllithium | C(CCC)[Li]
reactant | dimethyl methylphosphonate | 13.65 g | CP(OC)(OC)=O | C3H9O3P
reactant | 2,3,4,6-tetra-O-benzyl-D-glucono-1,5-lactone | 29.6 g | C(C1=CC=CC=C1)O[C@H]1C(=O)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C34H34O6
solvent | n-hexane | 1.6M, 68.8 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 3,4,5,7-tetra-O-benzyl-1-deoxy-1-(dimethoxyphosphoryl)-D-gluco-2-heptulopyranose | 33.1 g | C(C1=CC=CC=C1)O[C@H]1C(CP(=O)(OC)OC)(O)O[C@@H]([C@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1 | C37H43O9P
